VBIC Noise Scale Test
* Expected results: device_vbic_noise_scale.expected.json
* Origin: benchmark/fixtures/devices/vbic_noise_scale/circuit.sp

V1 R3_P 0 5 
V2 V2_P 0 5 AC 1
C1 R3_N V2_P 1n  
R4 R3_N 0 100k
Q1 VOUT R3_N Q1_E N1 M=2
*Q2 VOUT R3_N Q1_E N1
R1 R3_P VOUT 100k
R2 Q1_E 0 10k
R3 R3_P R3_N 500k

.OPTIONS NOACCT

.NOISE v(vout) V2 DEC 25 1k 100Meg

.print noise v(inoise_spectrum)


.MODEL N1 NPN LEVEL=4 
+ IS=1e-16 IBEI=1e-18 IBEN=5e-15 IBCI=2e-17 IBCN=5e-15 ISP=1e-15 RCX=10
+ RCI=60 RBX=10 RBI=40 RE=2 RS=20 RBP=40 VEF=10 VER=4 IKF=2e-3 ITF=8e-2
+ XTF=20 IKR=2e-4 IKP=2e-4 CJE=1e-13 CJC=2e-14 CJEP=1e-13 CJCP=4e-13 VO=2
+ GAMM=2e-11 HRCF=2 QCO=1e-12 AVC1=2 AVC2=15 TF=10e-12 TR=100e-12 TD=2e-11 
+ RTH=300 KFN=10e-15 AFN=1 BFN=1

.END
